US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (0.284 g, 2.48 mmol), 2-chloro-4-(2,6-difluorophenoxy)pyridine (0.600 g, 2.48 mmol), potassium phosphate (0.580 g, 2.73 mmol), Pd2(dba)3 (0.114 g, 0.124 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.072 g, 0.124 mmol) were reacted to provide N-(4-(2,6-difluorophenoxy)pyridin-2-yl)-4-methylthiazol-2-amine (0.312 g, 39% yield). 1H NMR (d6-DMSO) δ 11.03 (s, 1H), 8.20 (d, 1H), 7.36-7.50 (m, 3H), 6.60-6.63 (m, 2H), 6.54 (s, 1H), 2.20 (s, 3H).

reactant | 4-methylthiazol-2-amine | 2.48 mmol, 0.284 g | CC=1N=C(SC1)N | C4H6N2S
reactant | 2-chloro-4-(2,6-difluorophenoxy)pyridine | 2.48 mmol, 0.600 g | ClC1=NC=CC(=C1)OC1=C(C=CC=C1F)F | C11H6ClF2NO
reactant | potassium phosphate | 2.73 mmol, 0.580 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.124 mmol, 0.072 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | Pd2(dba)3 | 0.124 mmol, 0.114 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-(2,6-difluorophenoxy)pyridin-2-yl)-4-methylthiazol-2-amine | 0.312 g, 39% yield | FC1=C(OC2=CC(=NC=C2)NC=2SC=C(N2)C)C(=CC=C1)F | C15H11F2N3OS
